2174-11-05 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Upper GI bleed
   24 Hour Events:
   Patient did not have scope out of concern that patient would experience
   more morbidity from scope than he was from mild coffee ground emesis
   Patient continued to have severe pain throughout the night; with
   morphine pain worsened, with dilaudid pain improved
   RUQ ultrasound showed:
   1. Gallbladder sludge, no evidence of acute cholecystitis
   2. R inguinal mass with fluid filled loop of colon
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2174-11-4**] 09:20 PM
   Hydromorphone (Dilaudid) - [**2174-11-5**] 04:37 AM
   Lorazepam (Ativan) - [**2174-11-5**] 04:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-11-5**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 76 (76 - 108) bpm
   BP: 116/52(65) {110/38(56) - 138/67(84)} mmHg
   RR: 16 (10 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.7 kg (admission): 51.7 kg
   Height: 66 Inch
             Total In:
                                                                  2,186 mL
                                                                    209 mL
   PO:
             TF:
   IVF:
                                                                    186 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                    200 mL
   Urine:
                                                                    495 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,691 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Gen: Pleasant elderly male NAD. HEENT:  MMM, no conjunctival pallor, no
   scleral icterus.  Cardiac: regular rate & rhythm; 6/6 systolic murmur,
   no R/G Lungs: CTA anteriorly [**Last Name (un) 110**]: NABS, soft, nondistended, nontender,
   no rebound/guarding  Skin: red, blanching area on back, sacrum, and
   backs of thighs consistent with distribution of weight of where he is
   lying in bed
   Labs / Radiology
   KUB no evidence of free air [**2174-11-4**]
   RUQ ultrasound showed:
   1. Gallbladder sludge, no evidence of acute cholecystitis
   2. R inguinal mass with fluid filled loop of colon
   274 K/uL
   11.8 g/dL
   128
   1.2 mg/dL
   25 mEq/L
   4.9 mEq/L
   26 mg/dL
   110 mEq/L
   141 mEq/L
   38.2 %
   7.9 K/uL
        [image002.jpg]
                            [**2174-11-4**]  04:18 PM
                            [**2174-11-4**]  05:00 PM
                            [**2174-11-4**]  11:54 PM
                            [**2174-11-5**]  12:00 AM
                            [**2174-11-5**]  04:05 AM
                            [**2174-11-5**]  05:00 AM
   WBC
   12.5
   7.9
   Hct
   32.5
   33.3
   38.2
   Plt
   243
   274
   Cr
   1.1
   1.2
   Glucose
   160
   168
   128
   117
   128
   Other labs: PT / PTT / INR:12.8/40.0/1.1, ALT / AST:[**10-24**], Alk Phos / T
   Bili:74/0.4, LDH:187 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   [**Age over 90 **] y o male with PMHx significant for COPD and asbestosis, presented on
   [**11-4**] with inability to void, nausea/vomiting. In ED found to be having
   coffee ground emesis, transferred from floor with second episode of
   coffee ground emesis and tachycardia.
   #Abdominal pain/nausea: Concern for possible pancreatitis as patient
   has a history of ERCP on [**2173-4-30**], however never had CCY; currently does
   have gallbladder sludge seen on RUQ ultrasound, but has no elevated Alk
   phos or LFTs.  Patient has mildly elevated lipase. Pain control
   achieved with dilaudid. Concern also for possible incarcerated loop of
   bowel in femoral hernia. Patient was seen by surgery who felt patient
   was not obstructed, most likely has incarcerated fat in femoral area.
   Recommended surgical repair on this hospitalization. Surgery recommends
   not trying to reduce femoral hernia as this will most likely cause more
   pain.  Unclear if this is only source for abdominal pain. Will f/u with
   surgery to see if they feel all pain can be explained by hernia. If
   not, consider possible nephrolithiasis as source of his pain, which
   would make sense given his presentation with dehydration.
   -NPO
   -Pain control with dilaudid
   -F/u with surgery
   -If surgery feels pain not consistent with hernia, will plan on CT with
   IV contrast of [**Last Name (un) **]/pelvis to assess for possible stones
   -Premedicate for CT scan given history of CKD, age
   #. Coffee Ground Emesis - he has had two episodes of coffee ground
   emesis yesterday [**11-4**] with remote history of gastric ulcers.  Concern
   for upper GI bleed.  Pt could not tolerate NG lavage.  Guiaic negative.
   No previous colonoscopy.  No h/o liver disease and low suspicion of
   varices.  Has had several episodes of vomiting in past few days; may
   have [**First Name4 (NamePattern1) 1862**] [**Last Name (NamePattern1) **] tear.  Also may have erosive gastritis. Given CXR
   without evidence of free air and unremarkable abdominal exam, suspicion
   of perforated ulcer low. HCT significantly increased overnight, may be
   secondary to hemoconcentration.  However, patient overall appears
   stable in terms of coffee ground emesis, no evidence of acute bleeding.
   - GI following , will need scope on nonurgent basis
   - Protonix IV BID
   - Hold ASA
   - Active T&S
   - Transfuse for hct <21
   -Daily HCT
   .
   #. Low urine output - Concern for urinary retention in setting of BPH
   and a failed voiding trial in ED.  Also with decreased UOP, thought to
   be secondary to dehydration given that it improved with fluids.  Cr
   continues to be stable. Overnight urine output approximately 20cc/hour.
   Given fluid bolus 500 ml.
   - Monitor UOP with goal 30cc/hr
   - Continue foley until hemodynamicaly stable, then voiding trial
   .
   #. COPD, asbestosis - on 2L home O2.  Per patient respiratory status is
   at baseline on 2LNC.
   - continue 02
   - continue albuterol nebs
   .
   #. Chronic Renal Failure - At baseline Cr 1.5.
   .
   #. HTN - BP stable
   - hold simvastatin and atenolol in setting of GI bleed
   .
   #. Glaucoma
   - continue eye drops
   .
   #. FEN: NPO
   .
   #. PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen with colace, senna
   -Pain management with Dilaudid
   .
   #. ACCESS: 3 PIVs
   .
   #. CODE STATUS: DNR/DNI, however after discussion with patient he has
   agreed to change status to full code in the event he will need sedation
   and intubation for scope, with the understanding that his status will
   be returned to DNR/DNI after procedure.
   .
   #. EMERGENCY CONTACT:
   .
   #. DISPOSITION: ICU for now pending work-up of abdominal pain
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-11-4**] 07:38 PM
   18 Gauge - [**2174-11-4**] 07:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2174-11-05 10:23:00 Physician Attending Progress Note
Chief Complaint: Nausea, abd pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Nausea persists, medicated for pain with Dilaudid
   24 Hour Events:
                                  History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2174-11-4**] 09:20 PM
   Lorazepam (Ativan) - [**2174-11-5**] 04:38 AM
   Hydromorphone (Dilaudid) - [**2174-11-5**] 09:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, Nausea, Emesis, No(t) Diarrhea, No(t)
   Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**5-11**] Moderate
   Pain location: abdomen
   Flowsheet Data as of  [**2174-11-5**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 90 (75 - 108) bpm
   BP: 112/36(54) {110/36(54) - 138/67(84)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.7 kg (admission): 51.7 kg
   Height: 66 Inch
             Total In:
                                                                  2,186 mL
                                                                    807 mL
   PO:
             TF:
   IVF:
                                                                    186 mL
                                                                    807 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                    285 mL
   Urine:
                                                                    495 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,691 mL
                                                                    522 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: mid
   epi to lower in midline, No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: erythema on buttocks
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   274 K/uL
   128
   1.2 mg/dL
   25 mEq/L
   4.9 mEq/L
   26 mg/dL
   110 mEq/L
   141 mEq/L
   38.2 %
   7.9 K/uL
        [image002.jpg]
                            [**2174-11-4**]  04:18 PM
                            [**2174-11-4**]  05:00 PM
                            [**2174-11-4**]  11:54 PM
                            [**2174-11-5**]  12:00 AM
                            [**2174-11-5**]  04:05 AM
                            [**2174-11-5**]  05:00 AM
   WBC
   12.5
   7.9
   Hct
   32.5
   33.3
   38.2
   Plt
   243
   274
   Cr
   1.1
   1.2
   Glucose
   160
   168
   128
   117
   128
   Other labs: PT / PTT / INR:12.8/40.0/1.1, ALT / AST:[**10-24**], Alk Phos / T
   Bili:74/0.4, LDH:187 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 OLIGURIA/ANURIA
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Primary problems are abd pain and nausea. Dr, [**Name (NI) 1688**] thinks
   femoral hernia is incarcerated - will check with him to see if this is
   sufficient to explain nausea and pain. Lipase is sl elevated but min to
   suggest biliary obstruction or pancreatitis.  GIB seems largely to have
   resolved - hct is stable. Would hold on EGD for now unless bleeding
   increases.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2174-11-4**] 07:38 PM
   18 Gauge - [**2174-11-4**] 07:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40 minutes